US06252084B1
A solution of 875 mg (2.6 mmol) of 2-ethyl-4-methoxy-alpha-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide and 0.51 mL (3.23 mmol) of triethylsilane in 10 mL of trifluoroacetic acid was stirred for 16 hours and concentrated at reduced pressure. The residue was taken up in ethyl acetate and water, the ethyl acetate separated, washed with brine and dried (MgSO4). The residue was chromatographed on silica gel and eluted first with 50% ethyl acetate/hexane and then ethyl acetate to give 521 mg (62% yield) of 2-ethyl-4-methoxy-1-(phenylmethyl)-1H-indole-3-acetamide, mp, 152-154° C.

reactant | 2-ethyl-4-methoxy-alpha-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | 2.6 mmol, 875 mg | C(C)C=1N(C2=CC=CC(=C2C1C(C(=O)N)O)OC)CC1=CC=CC=C1 | C20H22N2O3
reactant | triethylsilane | 3.23 mmol, 0.51 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-ethyl-4-methoxy-1-(phenylmethyl)-1H-indole-3-acetamide | 521 mg, 62% yield | C(C)C=1N(C2=CC=CC(=C2C1CC(=O)N)OC)CC1=CC=CC=C1 | C20H22N2O2
